US09233968B1
To a 50-mL round bottom flask was added 6-iodo-imidazo[1,2-b]pyridazin-2-ylamine (130 mg, 0.5 mmol, 1 eq), anhydrous dichloromethane (10 mL), acetic anhydride (0.071 mL, 1.5 eq), pyridine (0.073 mL, 1.8 eq), and 4-(dimethylamino)pyridine (0.61 mg, 0.01 eq). After the mixture was stirred at room temperature for four hours, it was quenched with saturated aqueous sodium bicarbonate and extracted with i-PrOH—CHCl3 (1:4). The organic layer was isolated, washed with brine, and dried with anhydrous sodium sulfate. The upper clear solution was decanted, concentrated, and the residue was subject to a gradient column chromatography (from DCM to MeOH-DCM 1:30) to yield N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)acetamide as a white solid in amount of 67 mg.

reactant | 6-iodo-imidazo[1,2-b]pyridazin-2-ylamine | 0.5 mmol, 130 mg, 1 eq | IC=1C=CC=2N(N1)C=C(N2)N | C6H5IN4
reactant | acetic anhydride | 0.071 mL, 1.5 eq | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 0.073 mL, 1.8 eq | N1=CC=CC=C1 | C5H5N
catalyst | 4-(dimethylamino)pyridine | 0.61 mg, 0.01 eq | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)acetamide | IC=1C=CC=2N(N1)C=C(N2)NC(C)=O | C8H7IN4O
